US03948906
a. Diphenylmethyl 3-hydroxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylate
3-Hydroxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid (500 mg.) was dissolved in dry tetrahydrofuran and treated with a solution of diphenyldiazomethane (300 mg., 1.1 equiv.) in petrol. Nitrogen was evolved slowly, and after 21/2 hours the solution was evaporated, the residue dissolved in ethyl acetate, and the solution was washed with bicarbonate solution and re-evaporated. This gave a gum which solidified on trituration with ether (0.5 g.). A sample was recrystallised from methanol, m.p. 164°, [α]D23 = + 25° (c, 1.0, dioxan), +22° (c 1.0, tetrahydrofuran). λλmax. ethanol 234 nm. E1 cm1% = 255, (ε = 13,300), 259 nm. E1cm1% = 151 (ε 7,850), νmax. (bromoform) 3420 (OH), 3280 (NH), 1750 (β-lactam), 1722 cm-1 (COOR). (Found, C, 62.2; H, 4.5; N, 5.4; S, 12.1. C27H24N2O5S2 requires C, 62.3; H, 4.7; N, 5.4; S, 12.3%) RF = 0.83 (Kieselgel G plates; ethyl acetate:benzene=1:2).

reactant | 3-Hydroxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid | 500 mg | OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C14H14N2O5S2
reactant | diphenyldiazomethane | 300 mg, 1.1 equiv. | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | ether | 0.5 g | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Diphenylmethyl 3-hydroxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylate | OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H24N2O5S2
